US08912330B2
tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate:
Bis(pinacolato)diboron (14.2 g, 55.9 mmol, 1.4 eq) and potassium acetate (15.8 g, 161 mmol, 4.0 eq) were added to a solution of tert-butyl 4-(4-iodo-1H-pyrazol-1-yl)piperidine-1-carboxylate (15.0 g, 39.8 mmol, 1.0 eq) in dimethylsulfoxide (DMSO) (173 nil) sequentially under nitrogen. Pd(PPh3)4 (3.98 g) was then added. The reaction was heated at 80° C. for 2 hours. The mixture was cooled to room temperature (r.t.), filtered through celite and washed with ethyl acetate. The filtrate was washed with brine twice, dried, and chromatographed (5%-30% of ethyl acetate in hexanes) to give a yellowish solid, 12.5 g, in 83% yield.

reactant | Bis(pinacolato)diboron | 55.9 mmol, 14.2 g, 1.4 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 161 mmol, 15.8 g, 4.0 eq | C(C)(=O)[O-].[K+]
reactant | tert-butyl 4-(4-iodo-1H-pyrazol-1-yl)piperidine-1-carboxylate | 39.8 mmol, 15.0 g, 1.0 eq | IC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H20IN3O2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
catalyst | Pd(PPh3)4 | 3.98 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 83% yield | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
